Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Ms. ___ is a ___ female with past medical history significant 
for fibroids who presents as transfer from ___ for 
management of newly diagnosed bilateral pulmonary emboli. 

Patient is a non-smoker on Balziva (combined progesterone and
estrogen OCP) who was in usual state of health until
approximately 1 week ago when she developed a dry cough and
progressively worsening SOB/DOE. Presented to ___ on
___ for evaluation. At that time, workup was concerning for
RML pneumonia based on CXR and she was noted to have an elevated
D-dimer. She was discharged with a 5 day course of azithromycin. 


Due to lack of symptomatic improvement, patient re-presented to
___ on ___. She endorsed small volume hemoptysis, 
dyspnea, and pleuritic back and chest pain. She denied leg pain, 
leg swelling, and recent travel. Labs showed a normal CBC, 
chem10, and INR. Troponins were negative and D-dimer was 6.78, 
She had a CTA at ___, which demonstrated: 
1. Extensive segmental and subsegmental bilateral pulmonary
emboli involving all pulmonary lobes, detailed above, with
flattening of the interventricular septum suspicious for right
heart strain.
2. Infarctions along the periphery of the right lower lobe.
She was started on a heparin drip and transferred to ___ for 
further management.

In the ED, initial vitals: 97.5 105 134/84 18 100% RA. She 
remained hemodynamically stable on room air throughout her ED 
course.
- Labs were notable for: negative troponin, BNP 1726
- Imaging: OSH CT (reviewed above), LENIs which showed 
possibility of pelvic thrombus. Bedside echo showed concern for 
septal bowing
- Heparin was continued
- MASCOT was consulted

On arrival to the MICU, she is a&ox3 and normotensive. She 
endorsed pleuritic chest pain but no more hemoptysis. 
 
REVIEW OF SYSTEMS:  
(+) Per HPI  
(-) Otherwise

 
Past Medical History:
Endometrial polyps s/p D&C ___, benign pathology
Headaches, menstrual associated, no aura
?Bell's palsy at age ___
Nephrolithiasis
 
Social History:
___
Family History:
Stroke, maternal grandmother
No other known family history of blood clots
 
Physical Exam:
Discharge exam:
===============
VITALS:  T 97.7 HR 69 BP 133/81 RR 18 O2 sat 95%RA
GENERAL: Well-appearing woman lying in bed, alert and responsive 
no acute distress
HEENT: AT/NC, EOMI, PERRL, anicteric sclera, pink conjunctiva, 
MMM, good dentition  
NECK: nontender supple neck, no LAD, no JVD  
CARDIAC:  regular rate rhythm S1/S2, no murmurs, gallops, or 
rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly . palpable mass in RLQ 
EXTREMITIES: no cyanosis, clubbing or edema, moving all 4 
extremities with purpose  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  

 
Pertinent Results:
Admission labs:
===============
___ 04:01AM BLOOD WBC-8.2 RBC-4.00 Hgb-10.9* Hct-32.9* 
MCV-82# MCH-27.3 MCHC-33.1 RDW-14.0 RDWSD-41.1 Plt ___
___ 09:23PM BLOOD ___ PTT-64.3* ___
___ 04:01AM BLOOD Glucose-99 UreaN-10 Creat-0.6 Na-137 
K-3.7 Cl-103 HCO3-22 AnGap-16
___ 04:01AM BLOOD CK(CPK)-26*
___ 05:07PM BLOOD proBNP-1726*
___ 05:07PM BLOOD cTropnT-<0.01
___ 04:01AM BLOOD CK-MB-1 cTropnT-<0.01 proBNP-1256*
___ 04:01AM BLOOD Calcium-8.7 Phos-3.7 Mg-2.1

Microbiology:
=============
None

Imaging:
========

CTA ___ ___
1. Extensive segmental and subsegmental bilateral pulmonary 
emboli involving all pulmonary lobes, detailed above, with 
flattening of the interventricular septum suspicious for right 
heart strain.
2. Infarctions along the periphery of the right lower lobe.

Bilateral LENIs ___
1. No evidence of deep venous thrombosis in the right or left 
lower extremity veins. 
2. Respiratory variation is mildly blunted in the left common 
femoral vein, however still present, and there is normal 
response to Valsalva.  Note that more proximal (e.g. pelvic) 
thrombus cannot be definitively excluded. 

Echo ___
The left atrium and right atrium are normal in cavity size. The 
estimated right atrial pressure is ___ mmHg. Left ventricular 
wall thicknesses and cavity size are normal. Regional left 
ventricular wall motion is normal. Overall left ventricular 
systolic function is low normal (LVEF 50-55%). Right ventricular 
chamber size is normal with moderate global free wall 
hypokinesis. The diameters of aorta at the sinus, ascending and 
arch levels are normal. The aortic valve leaflets (?#) appear 
structurally normal with good leaflet excursion. There is no 
aortic stenosis. Trace aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The estimated 
pulmonary artery systolic pressure is normal. There is a 
trivial/physiologic pericardial effusion. 
IMPRESSION: Normal right ventricular cavity size with moderate 
free wall hypokinesis. Normal left ventricular cavity size with 
low normal global systolic function.

Discharge labs:
===============
___ 06:20AM BLOOD WBC-7.2 RBC-4.20 Hgb-11.3 Hct-35.3 MCV-84 
MCH-26.9 MCHC-32.0 RDW-13.6 RDWSD-41.5 Plt ___
___ 06:20AM BLOOD Glucose-84 UreaN-11 Creat-0.7 Na-140 
K-3.7 Cl-104 HCO3-24 AnGap-___ with a history of benign endometrial polyps s/p D&C in 
___ who presented to ___ with a complaint of dyspnea, 
found to have extensive bilateral pulmonary emboli with evidence 
of right heart strain on imaging, now transferred to ___ for 
monitoring and management of her submassive PE.

#Submassive pulmonary embolism:
Patient was found to have multiple segmental and subsegmental 
pulmonary emboli with elevated BNP and initial evidence of 
septal bowing on beside echo, and thereby classified as 
submassive PE. A formal TTE showed normal RV cavity size with 
moderate free wall hypokinesis. She remained hemodynamically 
stable throughout her ICU stay. Her PE can be considered 
provoked in the setting of taking OCPs, so she will need 3 
months of anticoagulation at least. She was started on a heparin 
drip at the outside hospital, which was continued in the ICU and 
upon transfer to the ward. She was started on Apixiban on ___ 
and tolerated well. When she leaves the hospital she has the 
following appointments and plan:
-Apixiban 10mg BID for 7 days loading dose
-Apixiban 5mg BID thereafter until she see's
-Hematology/Oncology ___ appointment arranged)
-PCP
-___ to ensure improvement in RV morphology and to 
ensure patient does not have CTEPH. This was recommended by 
MASCOT team (inpatient Pulmonary Embolism team). They will 
arrange Cardiology f/u and repeat echo for this patient.
 

#Menorrhagia:
#Uterine fibroids s/p D&C: Patient endorses long history of 
menorrhagia and has palpable fibroids on exam. 
-Patient has Ob/gyn f/u to discuss contraceptive strategy going 
forward given provocation is likely estrogen containing OCP

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Balziva (28) (norethindrone-ethin estradiol) 0.4-35 mg-mcg 
oral DAILY 
2. estradiol 0.01 % (0.1 mg/gram) vaginal nightly for three 
weeks prior to procedure 

 
Discharge Medications:
1.  Apixaban 10 mg PO BID 
Take 10mg BID for 1 week. Until ___.  
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*3
RX *apixaban [Eliquis] 5 mg 2 tablet(s) by mouth twice a day 
Disp #*40 Tablet Refills:*0 
2.  Apixaban 5 mg PO BID 
Take 5mg BID starting ___ 
RX *apixaban [Eliquis] 5 mg 1 tablet(s) by mouth twice a day 
Disp #*30 Tablet Refills:*0 
3.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*30 Capsule Refills:*0 
4.  Lidocaine 5% Patch 1 PTCH TD QAM 
RX *lidocain-me.salicyl-caps-menth [___] 0.5 %-20 %-0.035 
%-5 % 1patch to back daily Disp #*15 Patch Refills:*0 
5.  Ranitidine 150 mg PO BID:PRN Heartburn 
RX *ranitidine HCl 150 mg 1 capsule(s) by mouth twice a day Disp 
#*30 Capsule Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
-Submassive PE
-Fibroids

 
Discharge Condition:
Good
Alert and Oriented x 3
Ambulatory 

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to the hospital with clots in your lungs 
(pulmonary emboli). We obtained an ultrasound of your heart and 
imaging of your chest to assess the severity of your clot. We 
started on you on a blood thinner (heparin). We then 
transitioned you to a blood thinner (apixiban) that you can take 
orally. When you leave the hospital you should see your PCP, ___ 
hematologist to determine how long to take the blood thinner, 
and your ob/gyn to determine what method of birth control you 
can use. In the mean time use condoms while having sex. 
 
Followup Instructions:
___